US06004959
4-hydroxy-5-methoxy-fluoren-9-one
Prepare a solution of 4-isopropoxy-5-methoxy-fluoren-9-one (0.78 g, 2.9 mmole) in methylene chloride (15 mL) and stir at 0° C. under an argon atmosphere. Dropwise add 9 mL (9.0 mmole) of boron trichloride (1.0 M in methylene chloride and stir the mixture for 1 hour, observing the color change to dark. Quench the reaction with 20 mL water, observing a mild exothermic reaction and an orange precipitate. Filter and wash the solid twice with 100 mL methylene chloride. Separate the organic layer from the filtrate and wash with brine. Dry over magnesium sulfate, filter and remove the solvent. Recrystalize the solid from chloroform/hexane (20:80; Rf =0.2) to give the title compound. Yield; 0.55 g, 84%.

reactant | 4-isopropoxy-5-methoxy-fluoren-9-one | 2.9 mmole, 0.78 g | C(C)(C)OC1=CC=CC=2C(C3=CC=CC(=C3C12)OC)=O | C17H16O3
reactant | boron trichloride | 9.0 mmole, 9 mL | B(Cl)(Cl)Cl | BCl3
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-hydroxy-5-methoxy-fluoren-9-one | OC1=CC=CC=2C(C3=CC=CC(=C3C12)OC)=O | C14H10O3
